US04022801
A solution of 0.33 g of 3-[4-chloro-2-(2-fluoro-benzoyl)-phenyl]-4-phthalimidomethyl-2-methyl-pyrazole in 20 ml of methanol is saturated with ammonia and allowed to stand at room temperature for 2 days. The residue obtained after removal of solvent is treated with water and then extracted with diethyl ether. The ether extract is washed with a diluted aqueous sodium hydroxide solution, water and a saturated solution of sodium chloride in water and dried over sodium sulfate. Removal of ether yields an oil which is then chromatographed on a column of silica gel, the material being eluted with ethyl acetate. The solid residue obtained after removal of ethyl acetate is crystallized from a mixture of ethyl acetate and petroleum ether to yield the 8-chloro-6-(2-fluorophenyl)-1-methyl-1H,4H-pyrazolo [4,3-d](2) benzazepine m.p. 127°-129°, which is identical with the compound prepared according to the process of example 2.

reactant | 3-[4-chloro-2-(2-fluoro-benzoyl)-phenyl]-4-phthalimidomethyl-2-methyl-pyrazole | 0.33 g | ClC1=CC(=C(C=C1)C=1N(N=CC1CN1C(C=2C(C1=O)=CC=CC2)=O)C)C(C2=C(C=CC=C2)F)=O | C26H17ClFN3O3
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | 8-chloro-6-(2-fluorophenyl)-1-methyl-1H,4H-pyrazolo [4,3-d](2) benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NN3C)C=C1 | C18H13ClFN3
